US04001261
A solution of 15 g. (37 mmol) of [[7-bromo-5-(2-pyridyl)-3H-1,4-benzodiazepine-2-yl]amino]acetaldehyde, dimethyl-acetal in 50 ml. of concentrated sulfuric acid, is allowed to stir at room temperature under nitrogen overnight, poured onto crushed ice and crystallized with an aqueous sodium hydroxide solution. After the product is extracted with chloroform the chloroform extract is washed with brine, dried over sodium sulfate and concentrated to an oil in vacuo. On trituration, with ethyl acetate 10.2 g. (81%) of yellow crystalline 8-bromo-6-(2-pyridyl)-4H-imidazo[1,2-a][1,4]benzodiazepine of melting point 208°-210° C. is obtained.

reactant | [[7-bromo-5-(2-pyridyl)-3H-1,4-benzodiazepine-2-yl]amino]acetaldehyde | 37 mmol | BrC=1C=CC2=C(C(=NCC(=N2)NCC=O)C2=NC=CC=C2)C1 | C16H13BrN4O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 8-bromo-6-(2-pyridyl)-4H-imidazo[1,2-a][1,4]benzodiazepine | 81% | BrC=1C=CC2=C(C(=NCC=3N2C=CN3)C3=NC=CC=C3)C1 | C16H11BrN4
